US07388019B2
Step B: Phenyl 5-ethyl-7,8-dihydropyrido[3,4-b]pyrazine-6(5H)-carboxylate
Catalyst (10% palladium on carbon, 140 mg) was added to a solution of phenyl 5-ethylpyrido[3,4-b]pyrazine-6(5H)-carboxylate (238 mg, 0.85 mmol) in ethyl acetate (6.0 mL), and the resultant mixture was stirred under hydrogen (1 atm) for 7.5 h. Filtration through Celite® and evaporation of the solvent gave the crude product. Purification by flash chromatography (silica gel, 6-15% ethyl acetate/dichloromethane) gave the title compound as a colorless oil. LC/MS 284 (M+1).

reactant | phenyl 5-ethylpyrido[3,4-b]pyrazine-6(5H)-carboxylate | 0.85 mmol, 238 mg | C(C)C1N(C=CC=2C1=NC=CN2)C(=O)OC2=CC=CC=C2 | C16H15N3O2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethyl acetate | 6.0 mL | C(C)(=O)OCC | C4H8O2
product | Phenyl 5-ethyl-7,8-dihydropyrido[3,4-b]pyrazine-6(5H)-carboxylate | C(C)C1N(CCC=2C1=NC=CN2)C(=O)OC2=CC=CC=C2 | C16H17N3O2
